US09371353B2
(3) Synthesis of 4-(3,7-dimethyl-1-octyloxy)benzoic acid
Methyl[4-(3,7-dimethyl-1-octyloxy)]benzoate (16.1 g, 54.9 mmol) was dissolved in 1,4-dioxane (300 ml), 50% aqueous potassium hydroxide solution (25 ml) was added and the mixture was stirred at 100° C. for 6 hr. To acidify the reaction mixture, concentrated hydrochloric acid was added dropwise, and the mixture was extracted with ethyl acetate (200 ml), and washed with 10% aqueous sodium hydroxide solution (100 ml) and saturated brine (100 ml). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (14.2 g, 92.8%) as a white solid.

reactant | Methyl[4-(3,7-dimethyl-1-octyloxy)]benzoate | 54.9 mmol, 16.1 g | COC(C1=CC=C(C=C1)OCCC(CCCC(C)C)C)=O | C18H28O3
reactant | potassium hydroxide | 25 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 4-(3,7-dimethyl-1-octyloxy)benzoic acid | 14.2 g, 92.8% | CC(CCOC1=CC=C(C(=O)O)C=C1)CCCC(C)C | C17H26O3
